US07652153B2
(1R,3S,4S)-3-((2R,3S)-2-Ethoxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid benzyl ester
A solution of (1R,3S,4S)-3-((S)-1-tert-Butoxycarbonylmethyl-2,2-diethoxy-ethylcarbamoyl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid benzyl ester (635 mg) in dichloromethane (3 ml) was cooled to 0° C. under nitrogen. Trifluoroacetic acid (0.7 ml) was then added and the mixture stirred at 0° C. for 15 minutes, then warmed to ambient temperature and stirred until the reaction was complete by TLC. The mixture was then diluted with dichloromethane (10 ml) and saturated aqueous sodium bicarbonate solution (14 ml). The organic phase was then removed and washed with 1:1 saturated aqueous sodium bicarbonate/brine (8 ml), dried (magnesium sulfate), filtered and concentrated under reduced pressure. This afforded the sub-title compound as a mixture of epimers at the ketal centre. The epimers were separated on silica gel, eluting with 30% 2-butanone/petrol. Syn-isomer (oil) (115 mg, 23%); 1H NMR (400 MHz, d-6 DMSO) δ 0.80-1.91 (10H, m), 2.35-2.79 (2H, m), 3.56 (1H, m), 3.66-3.80 (2H, m), 4.18 (1H, m), 4.59 (1H, m), 4.94-5.11 (2H, m), 5.53 (1H, d), 7.20-7.40 (5H, m), 8.18 (0.5H, d), 8.27 (0.5H, d); MS ES+403.31 (100%), ES−401.37 (15%); Anti-isomer (oil) (103 mg, 20%); 1H NMR (400 MHz, d-6 DMSO) δ 0.80-1.85 (10H, m), 2.25-2.60 (1H, m), 2.95 (1H, m), 3.42 (1H, m), 3.5-3.75 (2H, m), 4.88-5.15 (3H, m), 7.21-7.40 (5H, m), 8.50 (0.4H, d), 8.59 (0.6H, d).

reactant | (1R,3S,4S)-3-((S)-1-tert-Butoxycarbonylmethyl-2,2-diethoxy-ethylcarbamoyl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid benzyl ester | 635 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H]2CC[C@H]([C@H]1C(N[C@H](C(OCC)OCC)CC(=O)OC(C)(C)C)=O)C2 | C27H40N2O7
reactant | Trifluoroacetic acid | 0.7 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 14 ml | C([O-])(O)=O.[Na+]
product | (1R,3S,4S)-3-((2R,3S)-2-Ethoxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H]2CC[C@H]([C@H]1C(N[C@@H]1[C@@H](OC(C1)=O)OCC)=O)C2 | C21H26N2O6
